US07858640B2
[8-chloro-4-difluoromethoxy-3-(4-methanesulfonylbenzyl)-2-methylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-4-difluoromethoxy-3-(4-methanesulfonylbenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.13 g), methanol (20 mL), saturated, aqueous lithium hydroxide solution (1.0 mL) and water (2.0 mL) was stirred at room temperature for 45 minutes. The pH of the solution was adjusted to 5 by the addition of glacial acetic acid and the methanol removed under reduced pressured. The resulting precipitate was collected by filtration and purified by preparative reverse-phase HPLC using a gradient over 45 minutes of acetonitrile in water (10% to 95% of organic modifier) to afford title compound as a pale yellow solid, 0.014 g.

reactant | [8-chloro-4-difluoromethoxy-3-(4-methanesulfonylbenzyl)-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.13 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)S(=O)(=O)C)OC(F)F)=O | C22H20ClF2NO6S
reactant | methanol | 20 mL | CO | CH4O
reactant | lithium hydroxide | 1.0 mL | [OH-].[Li+]
reactant | water | 2.0 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [8-chloro-4-difluoromethoxy-3-(4-methanesulfonylbenzyl)-2-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)OC(F)F)OCC(=O)O | C21H18ClF2NO6S
